US07410986B2
To a cold (0° C.) solution of 2-[6-amino-4-(3-aminophenyl)-5-(hydroxymethyl)-2-pyridinyl]phenol (0.100 g, 0.325 mmol) in THF (3 mL) including pyridine (0.028 mL, 0.34 mmol) was added 3-chloropropionyl chloride (0.043 g, 0.34 mmol). After being stirred for 30 minutes, the mixture was allowed to warm to room temperature and the stirring was continued for 2 hrs. The resulting mixture was diluted with water and extracted with ethyl acetate. The separated organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was crystallized with ethyl ether. The resulting solid was collected by filtration, washed with ethyl ether, and dried under reduced pressure to give N-{3-[2-amino-3-(hydroxymethyl)-6-(2-hydroxyphenyl)-4-pyridinyl]phenyl}-3-chloropropanamide as a pale yellow solid (0.072 g, yield 56%).

reactant | 2-[6-amino-4-(3-aminophenyl)-5-(hydroxymethyl)-2-pyridinyl]phenol | 0.325 mmol, 0.100 g | NC1=C(C(=CC(=N1)C1=C(C=CC=C1)O)C1=CC(=CC=C1)N)CO | C18H17N3O2
reactant | pyridine | 0.34 mmol, 0.028 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-chloropropionyl chloride | 0.34 mmol, 0.043 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-{3-[2-amino-3-(hydroxymethyl)-6-(2-hydroxyphenyl)-4-pyridinyl]phenyl}-3-chloropropanamide | 0.072 g, yield 56% | NC1=NC(=CC(=C1CO)C=1C=C(C=CC1)NC(CCCl)=O)C1=C(C=CC=C1)O | C21H20ClN3O3
